US09254251B2
2,4-Dihydroxybenzoic acid (9.24 g) and 1-adamantanol (9.14 g) are dissolved in dichloromethane (200 mL) and then stirred. After adding acetic acid (17.1 mL) mixed with concentrated sulfuric acid (3.3 mL) dropwise, the mixture is stirred at room temperature for 12 hours. After adding water (200 mL), sodium bicarbonate is added until the pH of the solution becomes 6. The produced solid is filtered to obtain 8.82 g of 5-adamantan-1-yl-2,4-dihydroxybenzoic acid as solid of a light color.

reactant | 2,4-Dihydroxybenzoic acid | 9.24 g | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | 1-adamantanol | 9.14 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | sulfuric acid | 3.3 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | 200 mL | O | H2O
solvent | acetic acid | 17.1 mL | C(C)(=O)O | C2H4O2
product | 5-adamantan-1-yl-2,4-dihydroxybenzoic acid | 8.82 g | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C(=O)O)C2)O)O | C17H20O4
